US06562811B1
A mixture of 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride (0.070 g, 0.160 mmol), which was obtained in Example 18-1, and 2.5N HCl in 1,4-dioxane (4 mL) was stirred at 80° C. overnight. After cooled to room temperature, the mixture was concentrated under reduced pressure. The resulting residue was diluted with dichloromethane (3 mL), and triethylamine (0.064 g, 0.497 mmol) was added. To the cooled (0° C.) mixture was added di-tert-butyl dicarbonate (0.047 g, 0.218 mmol) under an argon atmosphere. The stirring was continued at room temperature overnight. After quenched by water, the mixture was extracted with ethyl acetate and water. The separated organic phase was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by preparative TLC (hexane/ethyl acetate=1/1) to give tert-butyl 3-[7-(2,6-dihydroxyphenyl)-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl]-1-piperidine-carboxylate (0.019 g, 19%). To a solution of tert-butyl 3-[7-(2,6-dihydroxyphenyl)-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl]-1-piperidinecarboxylate in dioxane (1 mL) was added 4N HCl in dioxane (1 mL) at room temperature. The stirring was continued for 3 hrs. After the solvent was removed by evaporation, the resulting residue was washed with acetonitril, and dried under reduced pressure to give 7-(2,6-dihydroxyphenyl)-5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]-oxazin-2-one hydrochloride as a brown solid (0.007 g, 46%).

reactant | tert-butyl 3-[7-(2,6-dihydroxyphenyl)-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl]-1-piperidinecarboxylate | OC1=C(C(=CC=C1)O)C=1C=C(C2=C(NC(OC2)=O)N1)C1CN(CCC1)C(=O)OC(C)(C)C | C23H27N3O6
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-(2,6-dihydroxyphenyl)-5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]-oxazin-2-one hydrochloride | 0.007 g, 46% | Cl.OC1=C(C(=CC=C1)O)C=1C=C(C2=C(NC(OC2)=O)N1)C1CNCCC1 | InChI=1S/C18H19N3O4.ClH/c22-14-4-1-5-15(23)16(14)13-7-11(10-3-2-6-19-8-10)12-9-25-18(24)21-17(12)20-13;/h1,4-5,7,10,19,22-23H,2-3,6,8-9H2,(H,20,21,24);1H
